US05393459
0.2 mol of a 1.6 N solution of n-butyllithium in hexane and subsequently, at -30° C. to -40° C., a solution of 0.19 mol of 2 (p-octyloxyphenyl)-5-methylpyridine in THF are added to 0.2 mol of diisopropylamine in 100 ml of THF with exclusion of atmospheric oxygen and moisture. The reaction mixture is allowed to warm slowly until a clear solution is produced, and 0.2 mol of 3-trifluoromethylheptyl iodide (optically active) is then added. After 12 hours, the reaction mixture is hydrolyzed using saturated ammonium chloride solution, and is then subjected to customary work-up, giving optically active 2-(p-octyloxyphenyl)-5-(4-trifluoromethyloctyl)pyridine.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (p-octyloxyphenyl)-5-methylpyridine | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=C1)C | C20H27NO
reactant | diisopropylamine | 0.2 mol | C(C)(C)NC(C)C | C6H15N
reactant | oxygen | O=O | O2
reactant | 3-trifluoromethylheptyl iodide | 0.2 mol | FC(C(CCI)CCCC)(F)F | C8H14F3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(p-octyloxyphenyl)-5-(4-trifluoromethyloctyl)pyridine | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=C1)CCCC(CCCC)C(F)(F)F | C28H40F3NO
